US04125732
Methyl(p-cyanophenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate
To a mixture of 2.98 g of p-cyanophenol and 40 ml of methanol is added 1.19 g of sodium methoxide. To the mixture is added 8.22 g of methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate and 10 ml of benzene. The mixture is refluxed for 22 hours and the solvent removed under reduced pressure. The residue is chromatographed over silica gel with dichloromethane as the solvent. The product is obtained as an oil which is crystallized from methylcyclohexane-methanol and a small amount of hexane. Crystals are obtained and washed with hexane-methanol to give 3.7 g of white crystals, mp 102°-104° C.

reactant | p-cyanophenol | 2.98 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | methanol | 40 ml | CO | CH4O
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 8.22 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl | C18H18BrClO4
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | Methyl(p-cyanophenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 3.7 g | COC(C(C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)C#N)=O | C25H22ClNO5
